US07652049B2
Diisopropylethylamine (181 mg, 244 μL, 1.40 mmol) and triphosgene (138 mg, 0.466 mmol) were added successively to a stirred solution of 2-amino-1-(4-methylphenyl)ethanol (35.2 mg, 0.233 mmol) in dry CH2Cl2 (22 mL) at 0° C. under N2. The reaction was stirred at 0° C. for 1 h then concentrated in vacuo to a volume of about 5 mL. The mixture was diluted with water (50 mL) and extracted with EtOAc (3×50 mL). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-80% EtOAc in hexanes gradient) to afford 5-(4-methylphenyl)-1,3-oxazolidin-2-one. Rf=0.41 (50% EtOAc/hexanes). LCMS calc.=178.08; found=178.1 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.25 (d, J=7.4 Hz, 2H), 7.19 (d, J=7.4 Hz, 2H), 6.69 (br s, 1H), 5.55 (t, J=7.8 Hz, 1H), 3.93 (t, J=8.6 Hz, 1H), 3.52 (t, J=8.1 Hz, 1H), 2.35 (s, 3H).

reactant | Diisopropylethylamine | 1.40 mmol, 244 μL, 181 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 0.466 mmol, 138 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-1-(4-methylphenyl)ethanol | 0.233 mmol, 35.2 mg | NCC(O)C1=CC=C(C=C1)C | C9H13NO
solvent | CH2Cl2 | 22 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-methylphenyl)-1,3-oxazolidin-2-one | CC1=CC=C(C=C1)C1CNC(O1)=O | C10H11NO2
